US07696234B2
(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-[4-(6-trifluoromethyl-pyridin-3-ylmethoxy)-phenyl]-methanone
The title compound is prepared in a manner substantially analogous to Procedure C using (4-Hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 3-(chloromethyl)-6-(trifluoromethyl)pyridine. MS (ES+) 434.2

reactant | (4-Hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | OC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H22N2O2
reactant | 3-(chloromethyl)-6-(trifluoromethyl)pyridine | ClCC=1C=NC(=CC1)C(F)(F)F | C7H5ClF3N
product | (2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-[4-(6-trifluoromethyl-pyridin-3-ylmethoxy)-phenyl]-methanone | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)OCC=1C=NC(=CC1)C(F)(F)F | C23H26F3N3O2
